US06777409B2
255 mg of 4-(5-fluoro-2-nitrophenyl)-2-hydroxy-4-methyl-2-trifluoromethylvaleric acid in 3 ml of dimethyl acetamide is mixed at 0° C. with 0.105 ml of thionyl chloride, stirred for 30 minutes at 0° C. and 45 minutes at room temperature and combined with 300 mg of 5-aminophthalide. After 16 hours at room temperature, it is mixed with 2 M hydrochloric acid and ethyl acetate, the organic phase is washed neutral with water, dried (Na2SO4) and concentrated by evaporation. After chromatography on silica gel with hexane-ethyl acetate (3:2) and recrystallization from diisopropyl ether, 80 mg of 5-[4-(5-fluoro-2-nitrophenyl)-2-hydroxy-4-methyl-2-trifluoromethylvaleroylamino]phthalide is obtained, flash point 200-201° C.

reactant | 4-(5-fluoro-2-nitrophenyl)-2-hydroxy-4-methyl-2-trifluoromethylvaleric acid | 255 mg | FC=1C=CC(=C(C1)C(CC(C(=O)O)(C(F)(F)F)O)(C)C)[N+](=O)[O-] | C13H13F4NO5
reactant | thionyl chloride | 0.105 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 5-aminophthalide | 300 mg | NC=1C=C2COC(=O)C2=CC1 | C8H7NO2
reactant | hydrochloric acid | 2 M | Cl | ClH
solvent | dimethyl acetamide | 3 ml | CC(=O)N(C)C | C4H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-[4-(5-fluoro-2-nitrophenyl)-2-hydroxy-4-methyl-2-trifluoromethylvaleroylamino]phthalide | 80 mg | FC=1C=CC(=C(C1)C(CC(C(=O)NC=1C=C2COC(=O)C2=CC1)(C(F)(F)F)O)(C)C)[N+](=O)[O-] | C21H18F4N2O6
